US09108986B2
In 60 ml of methylene chloride, 1.00 g of 2-methylquinoline was dissolved, and 66.5 mg (2.0 mol %) of crystalline (S)-chloro[(1,2,3,4,5-η)-pentamethyl-2,4-cyclopentadien-1-yl](2-pyrrolidinecarboxamidato-κN1, κN2)iridium(III) (Cp*Ir(Cl−)(S-PA-H+)) was added. After cooling to −20° C., 8.4 ml of a mixed solvent of formic acid/triethylamine (molar ratio: 5/2) was added dropwise, and the mixture was continuously stirred at the same temperature for 20 hours. Then, the reaction was completed. The reaction mixture was basified with an aqueous potassium carbonate solution and then the resulting layers were separated. The organic layer was washed with water and concentrated to give 1.05 g of 2-methyl-1,2,3,4-tetrahydroquinoline as an oil.

reactant | 2-methylquinoline | 1.00 g | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | formic acid triethylamine | C(=O)O.C(C)N(CC)CC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-1,2,3,4-tetrahydroquinoline | 1.05 g | CC1NC2=CC=CC=C2CC1 | C10H13N
